US07531532B2
4-(4-Nitro-3-trifluoromethylphenoxy)pyridin-2-ylamine
To a solution of 2-amino-4-chloropyridine (2.0 g, 15.6 mmol) in N-methylpyrrolidone (16 ml) were added 5-hydroxy-2-nitrobenzotrifluoride (4.85 g, 23.4 mmol) and diisopropylethylamine (8.15 ml, 46.8 mmol), followed by stirring under a nitrogen atmosphere to heat at 150° C. for 62 hrs. The reaction mixture was cooled down to room temperature and the diisopropylethylamine was evaporated under a reduced pressure. The resultant residue was partitioned between ethyl acetate:tetrahydrofuran=1:1 (300 ml) and a 1 N aqueous solution of sodium hydroxide (100 ml). The organic layer was washed with a 1 N aqueous solution of sodium hydroxide and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; heptane/ethyl acetate=1/2, ethyl acetate, then ethyl acetate/methanol=20/1). The crude product was subjected to silica gel filtration (Fuji Silysia NH) The filtrate was concentrated to give a solid, which was then suspended in diethyl ether:hexane=1:1, filtered, and dried under aeration to provide the titled compound (760 mg, 16.3%) as a brown solid.

reactant | 2-amino-4-chloropyridine | 15.6 mmol, 2.0 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | 5-hydroxy-2-nitrobenzotrifluoride | 23.4 mmol, 4.85 g | OC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H4F3NO3
reactant | diisopropylethylamine | 46.8 mmol, 8.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidone | 16 ml | CN1C(CCC1)=O | C5H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(4-Nitro-3-trifluoromethylphenoxy)pyridin-2-ylamine | 760 mg, 16.3% | [N+](=O)([O-])C1=C(C=C(OC2=CC(=NC=C2)N)C=C1)C(F)(F)F | C12H8F3N3O3
